US07041659B2
Step G: Preparation of 4-(3-(2,6-Dimethylbenzyloxy)phenyl)-3-butenoic acid:
To a solution of Ethyl 4-(3-(2,6-dimethylbenzyloxy)phenyl)-3-butenoic acid: ethanol at low temp, add aqueous sodium hydroxide, after an hour, concentrate and purify by flash chromatography on silica gel column (chloroform:methanol 95:5 spiked with acetic acid).

reactant | Ethyl 4-(3-(2,6-dimethylbenzyloxy)phenyl)-3-butenoic acid | C(C)C(C(=O)O)C=CC1=CC(=CC=C1)OCC1=C(C=CC=C1C)C | C21H24O3
reactant | sodium hydroxide | [OH-].[Na+]
solvent | ethanol | C(C)O | C2H6O
product | 4-(3-(2,6-Dimethylbenzyloxy)phenyl)-3-butenoic acid | CC1=C(COC=2C=C(C=CC2)C=CCC(=O)O)C(=CC=C1)C | C19H20O3
